US05252571
Ethyl 2-(4-cyanomethyl-3,4-dihydro-3-oxo-2H-1,4-benzothiazin-2-yl)acetate
After 1.82 g of ethyl 2-(3,4-dihydro-3-oxo-2H-1,4-benzothiazin-2-yl)acetate, 1.31 g of bromoacetonitrile and 146 mg of potassium iodide were dissolved in dimethylsulfoxide (18 ml), 1.50 g of potassium carbonate was added to the solution. The mixture was stirred at room temperature for 40 hours. After saturated ammonium chloride aqueous solution was added to the reaction mixture, the mixture was extracted with ethyl acetate. After the organic phase was washed with saturated sodium chloride aqueous solution, the organic layer was dried over anhydrous magnesium sulfate and the solvent was distilled off. The resulting semicrystalline residue was dissolved in benzene. After insoluble matters were filtered off, the solvent was distilled off. Isopropyl ether was added to the residue for crystallization to give 1.74 g of the title compound. The structural formula and physical data of this compound are shown in Table 5.

reactant | ethyl 2-(3,4-dihydro-3-oxo-2H-1,4-benzothiazin-2-yl)acetate | 1.82 g | O=C1C(SC2=C(N1)C=CC=C2)CC(=O)OCC | C12H13NO3S
reactant | bromoacetonitrile | 1.31 g | BrCC#N | C2H2BrN
reactant | potassium iodide | 146 mg | [I-].[K+]
reactant | potassium carbonate | 1.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylsulfoxide | 18 ml | CS(=O)C | C2H6OS
product | Ethyl 2-(4-cyanomethyl-3,4-dihydro-3-oxo-2H-1,4-benzothiazin-2-yl)acetate | 1.74 g | C(#N)CN1C(C(SC2=C1C=CC=C2)CC(=O)OCC)=O | C14H14N2O3S
